US04372956
(e) 5,10-dihydro-7,8-dimethoxyimidazo-[2,1-b]quinazoline (I)
1.1 g of N-(2,2-dimethoxyethyl)-2-amino-4,5-dimethoxybenzylamine and 0.5 g of cyanogen bromide are heated under reflux over-night in 10 ml of 95% ethanol. 5 ml of 5 N hydrochloric acid are then added, and the solution is left to stand at room temperature for 2 hours. After the reaction solution is concentrated in a vacuum it is made alkaline with dilute caustic soda. The little compound is obtained in crystalline form, and is crystallised from ethyl acetate. M.p. 215°-217° (from ethanol).

reactant | N-(2,2-dimethoxyethyl)-2-amino-4,5-dimethoxybenzylamine | 1.1 g | COC(CNCC1=C(C=C(C(=C1)OC)OC)N)OC | C13H22N2O4
reactant | cyanogen bromide | 0.5 g | N#CBr | CBrN
reactant | hydrochloric acid | 5 N, 5 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5,10-dihydro-7,8-dimethoxyimidazo-[2,1-b]quinazoline | COC=1C=C2CN3C(NC2=CC1OC)=NC=C3 | C12H13N3O2
